US08242104B2
Step 2: 2-Chloro-5-(methoxymethoxy)isonicotinaldehyde
tert-Butyllithium in pentane (1.7 M, 19.0 mL) was added dropwise to a solution of 2-chloro-5-(methoxymethoxy)pyridine (4.880 g, 28.11 mmol) in 100 ml of ethyl ether at −76° C. Some precipitate appeared. The mixture was kept at −76° C. for 20 min then N,N-dimethylformamide (2.938 mL, 37.95 mmol) was added dropwise. The mixture was stirred for 10 min at −76° C. and then allowed to warm to at 0° C. for 1 h period. 10% aq NH4Cl was added and the mixture was extracted with ethyl acetate. The organic solution was washed with water, brine and dried over Na2SO4. After concentration in vacuum the yield of the crude 2-chloro-5-(methoxymethoxy)isonicotinaldehyde 5.49 g. MS: 202.0, 172.0. Without further purification was used in the next step.

reactant | tert-Butyllithium | C(C)(C)(C)[Li]
reactant | 2-chloro-5-(methoxymethoxy)pyridine | 28.11 mmol, 4.880 g | ClC1=NC=C(C=C1)OCOC | C7H8ClNO2
reactant | N,N-dimethylformamide | 37.95 mmol, 2.938 mL | CN(C=O)C | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | pentane | 1.7 M, 19.0 mL | CCCCC | C5H12
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-Chloro-5-(methoxymethoxy)isonicotinaldehyde | ClC=1C=C(C=O)C(=CN1)OCOC | C8H8ClNO3
